Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Motrin
 
Attending: ___.
 
Chief Complaint:
Asymptomatic hyponatremia 
 
Major Surgical or Invasive Procedure:
liver biopsy

 
History of Present Illness:
Ms. ___ is a ___ with PMH of RCC s/p prior R nephrectomy, liver 
lesions noted on recent MRI, with incidental finding of 
hyponatremia found on clinic visit. She reports that she has not 
been herself for the past two weeks since finding out about the 
results of her MRI. She reports decreased appetitie, still 
eating three meals per day but half the usual quantity, drinking 
___ glasses of ice-t or water per day. Otherwise she reports an 
epigastric stabbing pain, lasting only 5 seconds at a time, for 
the past two weeks. Her doctor changed her from zantac to 
prilosec for this recently. She also reports early morning 
nausea but no vomiting. She is otherwise asymptomatic denying 
any mental status changes, seizure activity, muscle weakness, 
thirst, polyuria, chest pain, fainting, headache, dyspnea, 
cough, pain, hematochezia, melena.  
.  
In the ED her vital signs were stable, her heart rate was 
notable for bradycardia to 52, of note the patient is on a beta 
blocker. She is euvolemic. A non-contrast head CT was wnl, as 
was her neuro exam. 

 
Past Medical History:
ONCOLOGIC HISTORY:  
- Diagnosed with kidney mass in ___, presented with right 
flank pain and hematuria; ureteral stent was placed  
- Right nephrectomy performed in ___ per patient report, she 
was told that she required no adjuvant therapy for her cancer  
- Surveillance imaging until ___, when CT scan demonstrated 
small lucent primarily peripheral areas throughout the liver 
(new since ___, suspicious for diffuse metastatic disease; 
small cysts in the left kidney  
- Several T2 hyperintensities in the thoracic/lumbar vertebrae, 
c/w hemangiomas  
.  
PAST MEDICAL HISTORY:  
- Hypertension.  
- Hyperlipidemia.  
- Psoriasis.  
- Endometriosis  
- Status post exploratory laparotomy x5.  
- History of seizure disorder (unclear, reports very remote h/o 
"stomach seizures" for which she was on dilantin)  
- Osteopenia with a history of right ankle fracture in ___.  


 
Social History:
___
Family History:
The patient's mother died at age ___ from an infection. Her 
father died at age ___ from mesothelioma after working in a ___ 
___ for many years. Her brother died in his ___ from 
mesothelioma. She has one half brother and half sister and does 
not know of their medical history. 
 
Physical Exam:
VITAL SIGNS:  
T:96.1  
BP:189/87  
HR:53  
RR:24  
O2:97% RA  
.  
GENERAL: Pleasant, well appearing female in NAD  
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No 
LAD, No thyromegaly.  
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, 
rubs or ___.  
LUNGS: CTAB, good air movement biaterally, scattered ronchi  
ABDOMEN: NABS. left upper quadrant/epigastric region with firm 
area 5-8cm wide, dull to percussion, somewhat tender to 
palpation, otherwise nontender abdomen, no rebound or guarding.  

EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior 
tibial pulses.  
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout.  
PSYCH: Listens and responds to questions appropriately, 
pleasant.  

 
Pertinent Results:
___ CT TORSO:
CT OF THE CHEST WITH IV CONTRAST: There is a left thyroid 
nodule. There is an ill-defined nodular opacity in the apex of 
the right lung and there is a 1.1 x 1 cm bilobed opacity in the 
right upper lobe and adjacent to this there are two other 
pleural-based nodules concerning for metastatic disease. The 
central airways are patent to the level of the segmental 
bronchi. There are concerning apparently enhancing left enlarged 
left hilar nodes. No other axillary or mediastinal enlarged 
nodes are demonstrated. There is aortic and coronary artery 
calcification.

ABDOMEN WITH INTRAVENOUS CONTRAST: There are innumerable 
heterogeneous lesions throughout the liver, which essentially 
replace the liver parenchyma. There has been a right 
nephrectomy. The left kidney demonstrates some small renal 
hypodensities, too small to characterize, likely cysts. The 
adrenals, spleen, pancreas, gallbladder, stomach, duodenum, and 
abdominal loops of small and large bowel are normal. There is no 
abdominal free air, free fluid or abdominal lymphadenopathy.

CT OF THE PELVIS WITH INTRAVENOUS CONTRAST: Pelvic loops of 
bowel appear normal with mild sigmoid diverticulosis. The 
bladder and distal ureters appear normal. There are no adnexal 
masses. There is no pelvic free fluid, free air or pathologic 
lymphadenopathy.

OSSEOUS STRUCTURES: Lytic lesions seen at L1, L2 and L3 are seen 
on the prior study and likely represent hemangiomas, although 
given the lytic nature, metastasis cannot be entirely excluded.

IMPRESSION:
1. Extensive metastatic disease involving the right lung and 
pleura, right hilar nodes, liver (which is essentially replaced 
by metastasis) and possibly L1 through L3: MR would characterize 
these potential osseous metastases.

2. Left thyroid nodule for which ultrasound can be considered.
.
___ MRI HEAD: IMPRESSION: No evidence of intracranial 
metastatic disease.
.
LABS ON DISCHARGE:
___ 08:45AM BLOOD WBC-9.7 RBC-5.51* Hgb-18.0* Hct-52.6* 
MCV-96 MCH-32.7* MCHC-34.2 RDW-12.8 Plt ___
___ 08:45AM BLOOD Glucose-95 UreaN-10 Creat-0.9 Na-125* 
K-4.6 Cl-90* HCO3-22 AnGap-18
___ 07:50AM BLOOD ALT-220* AST-166*
___ 07:25AM BLOOD TSH-1.9
 
Brief Hospital Course:
Ms ___ is a ___ with PMH of Urothelial carcinoma s/p prior R 
nephrectomy, with new liver lesions noted on recent MRI, 
admitted with incidental finding of hyponatremia, Na 120, found 
on clinic visit.  
 
1)Hyponatremia: Urine lytes consistent and worsening with IVF 
most consistent with SIADH, likely related to her metastatic 
disease.  No evidence of intracranial mets on MRI head. Sodium 
improved to 125 with 1.5L fluid restriction.  She was counseled 
on maintaining fluid restriction at home.  She will have follow 
up with her PCP and recheck of her sodium level the week after 
discharge. 
  
2)Urothelial carcinoma s/p R nephrectomy: CT scan showed 
extensive metastatic disease to right lung and liver, likely 
metastasis from her urothelial carcinoma.  She had liver biopsy 
during this admission.  She tolerated the procedure well with no 
complications.  Preliminary biopsy results consistent with this. 
 She will follow up in 10 days with Dr. ___ Dr. ___ 
___ to f/u on biopsy results and discuss further management.   
 
 
3) HTN: Blood pressure was stable with systolic in the 140's.  
Her moexipril was held during admission and on discharge given 
her hyponatremia.  She was continued on her home regimen of 
atenolol and amlodipine.
  
4) Hyperlipidemia: continued to hold simvastatin which was 
stopped by her PCP once the liver lesions/transaminitis 
discovered.  

5)Code Status: full code  
 
Medications on Admission:
Moexipril 15mg daily  
Amlodipine 5mg daily  
Atenolol 50mg qAM and 25mg qPM  
Clobetasol 0.05% Spray  
Clobetasol 0.05% Lotion  
Nicotine patch 21mg daily  
Simvastatin 20 mg daily --> stopped by her doctor  

 
Discharge Medications:
1. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
4. Nicotine 21 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  
5. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. Atenolol 25 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
7. Clobetasol 0.05 % Spray, Non-Aerosol Sig: as directed  
Topical as directed.  
8. Clobetasol 0.05 % Lotion Sig: as directed  Topical as 
directed.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hyponatremia
Liver lesions
.
Urothelial carcinoma s/p right nephrectomy
Hypertension
Hyperlipidemia
Psoriasis
Endometriosis

 
Discharge Condition:
fair
Na 125

 
Discharge Instructions:
You were admitted to the hospital because you had a low sodium 
level.  You were treated with fluid restriction and your sodium 
improved to 125.  You had a liver biopsy as well, which Dr. 
___ Dr. ___ will discuss with you at your follow up 
appointment. 

You will need to follow a 1.5 liter fluid restriction in order 
to prevent your sodium level from dropping again.  

MEDICATIONS:
Your moexipril was stopped.
All of your other 

Please call your doctor or return to the hospital if you 
experience any concerning symptoms including nausea, vomiting, 
headache, weakness, fatigue, light headedness, fainting, fevers 
or any other concerning symptoms. 
 
Followup Instructions:
___